US06562978B1
1-tert-Butoxycarbonyl-4-(4-fluorophenylsulfonyl)piperazine
To the solution of 1-tert-butoxycarbonylpiperazine (1.86 g, 10.0 mmol) and triethylamine (1.67 mL, 12.0 mmol) in dichloromethane (30 mL) was added 4-fluorobenzenesulfonyl chloride (2.34 g, 12.0 mmol), and the mixture was stirred at room temperature for 24 hours. To the mixture was added water (30 mL). and the mixture was concentrated under reduced pressure. To the concentrate was added ethyl acetate (70 mL). The organic layer was washed with water (30 mL), 1N-hydrochloric acid (10 mL×3), a saturated aqueous solution of sodium hydrogencarbonate (10 mL×3), saturated sodium chloride solution (10 mL), successively, dried over magnesium sulfate and concentrated under reduced pressure. To the concentrate was added diisopropyl ether, and the resulting precipitates were collected by filtration. The precipitates were washed with diisopropyl ether, and dried under reduced pressure to give the titled compound (1.94 g, 5.6 mmol, Yield 56%) as white crystals.

reactant | 1-tert-butoxycarbonylpiperazine | 10.0 mmol, 1.86 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 12.0 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzenesulfonyl chloride | 12.0 mmol, 2.34 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | water | 30 mL | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-tert-Butoxycarbonyl-4-(4-fluorophenylsulfonyl)piperazine | 5.6 mmol, 1.94 g, Yield 56% | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)F | C15H21FN2O4S
